US08624037B2
5.1) 4-(4,4-dimethyl-2,5-dioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile
A mixture of 4-fluoro-2-(trifluoromethyl)benzonitrile (5.67 g, 30 mmoles), 5,5-dimethyl-hydantoin (7.68 g, 60 mmoles), K2CO3 (8.28 g, 60 mmoles) in DMF (45 ml) is distributed in equal parts into three tubes to be placed in a microwave oven. Under magnetic stirring, each tube is irradiated at 140° C. for 20 minutes. The reaction masses are then combined, poured into water (200 ml) and extracted with AcOEt (2×75 ml). The organic phases are combined, washed with salt water, dried over Na2SO4 and filtered. The filtrate is concentrated under reduced pressure and the residue crystallizeds from Et2O (25 ml). After recrystallization from EtOH (75 ml), the powder is filtered and dried under vacuum. The expected compound is obtained in the form of a white solid with a yield of 46% (4.1 g). Melting point: 212-213° C.

reactant | 4-fluoro-2-(trifluoromethyl)benzonitrile | 30 mmoles, 5.67 g | FC1=CC(=C(C#N)C=C1)C(F)(F)F | C8H3F4N
reactant | 5,5-dimethyl-hydantoin | 60 mmoles, 7.68 g | CC1(C(NC(N1)=O)=O)C | C5H8N2O2
reactant | K2CO3 | 60 mmoles, 8.28 g | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
product | 4-(4,4-dimethyl-2,5-dioxoimidazolidin-1-yl)-2-(trifluoromethyl)benzonitrile | yield of 46% | CC1(NC(N(C1=O)C1=CC(=C(C#N)C=C1)C(F)(F)F)=O)C | C13H10F3N3O2
